US05360808
1,6-Dihydro-1-[2-(6-methyl-3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid methyl ester
1-(2-aminoethyl)-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester (0.50 g, 2.55 mmol) was coupled with 6-methyl-3-pyridinecarboxylic acid (0.42 g, 3.1 mmol)in dimethylformamide (42.5 ml) with triethylamine (1.80 ml, 12.75 mmol) and propylphosphonic acid anhydride (0.90 ml, added as a 0.90 ml ethyl acetate solution). After 72 hours, dichloromethane and aqueous sodium bicarbonate were added. The layers were separated and the organic layer washed with brine and dried (Na2SO4). Filtration, concentration, and purification by medium pressure liquid chromotography (silica gel, 4-6% methanol/dichloromethane) gave the desired product, MP: 184°-185° C.

reactant | 1-(2-aminoethyl)-1,6-dihydro-6-oxo-3-pyridinecarboxylic acid methyl ester | 2.55 mmol, 0.50 g | COC(=O)C1=CN(C(C=C1)=O)CCN | C9H12N2O3
reactant | 6-methyl-3-pyridinecarboxylic acid | 3.1 mmol, 0.42 g | CC1=CC=C(C=N1)C(=O)O | C7H7NO2
reactant | triethylamine | 12.75 mmol, 1.80 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 42.5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | 0.90 ml | C(C)(=O)OCC | C4H8O2
product | 1,6-Dihydro-1-[2-(6-methyl-3-pyridinylcarbonylamino)ethyl]-6-oxo-3-pyridinecarboxylic acid methyl ester | COC(=O)C1=CN(C(C=C1)=O)CCNC(=O)C=1C=NC(=CC1)C | C16H17N3O4
